### PR TITLE
Omega 2 pow succ

### PR DESCRIPTION
**Pull request by bollu**

### CODE REVIEW

File: Std/Tactic/Omega/Int.lean [hunk 1]
```diff
@@ -28,6 +28,9 @@ theorem pos_pow_of_pos (a : Int) (b : Nat) (h : 0 < a) : 0 < a ^ b := by
   rw [Int.eq_natAbs_of_zero_le (Int.le_of_lt h), ← Int.ofNat_zero, ← Int.ofNat_pow, Int.ofNat_lt]
   exact Nat.pos_pow_of_pos _ (Int.natAbs_pos.mpr (Int.ne_of_gt h))
 
+theorem two_pow_succ_eq_add (w) : 2^(Nat.succ w) = 2^w + 2^w := by 
+  rw [Nat.pow_succ, Nat.mul_two]
+
```
Comment (alexkeizer) [inline Std/Tactic/Omega/Int.lean]: Does omega know about multiplication? If so, wouldn't it be enough to teach it just about `pow_succ`, so that it will work for arbitrary bases, not just `2`?

File: Std/Tactic/Omega/Int.lean [hunk 2]
```diff
@@ -28,6 +28,9 @@ theorem pos_pow_of_pos (a : Int) (b : Nat) (h : 0 < a) : 0 < a ^ b := by
   rw [Int.eq_natAbs_of_zero_le (Int.le_of_lt h), ← Int.ofNat_zero, ← Int.ofNat_pow, Int.ofNat_lt]
   exact Nat.pos_pow_of_pos _ (Int.natAbs_pos.mpr (Int.ne_of_gt h))
 
+theorem two_pow_succ_eq_add (w) : 2^(Nat.succ w) = 2^w + 2^w := by
```
Comment (alexkeizer) [inline Std/Tactic/Omega/Int.lean]:
```suggestion
theorem two_pow_succ_eq_add (w) : 2^(w+1) = 2^w + 2^w := by 
```
Following `pow_succ`: the preferred spelling of `succ` is `_ + 1`

File: Std/Tactic/Omega/OmegaM.lean [hunk 3]
```diff
@@ -129,6 +129,15 @@ def analyzeAtom (e : Expr) : OmegaM (HashSet Expr) := do
   | (``Nat.cast, #[.const ``Int [], _, e']) =>
     -- Casts of natural numbers are non-negative.
     let mut r := {Expr.app (.const ``Int.ofNat_nonneg []) e'}
+    match e'.getAppFnArgs with
+    | (``HPow.hPow, #[_, _, _, _, b, exp]) =>
+      match b == toExpr (2 : Nat), exp.getAppFnArgs with
+      | true, (``Nat.succ, #[n]) =>
+        -- 2^(Nat.succ n) = 2^n + 2^n
```
Comment (alexkeizer) [inline Std/Tactic/Omega/OmegaM.lean:136]: Here, too, we should probably match on `_ + 1`, or both `succ _` and `_ + 1`. Or, does omega have some normalization in place?

File: Std/Tactic/Omega/Int.lean (hunk 1 above)
Comment (bollu) [reply Std/Tactic/Omega/Int.lean]: @alexkeizer that's an interesting point, I don't think it knows how to unroll multiplication into repeated addition AFAICT. Let me try.

File: Std/Tactic/Omega/OmegaM.lean (hunk 3 above)
Comment (bollu) [reply Std/Tactic/Omega/OmegaM.lean:136]: Sure, let me change the normalization to deal with both cases.

File: Std/Tactic/Omega/Int.lean (hunk 1 above)
Comment (bollu) [reply Std/Tactic/Omega/Int.lean]: This was a good suggestion, so I should move the processing to be at the level where it makes linear combinations, not where it adds assumptions to atoms.

File: Std/Tactic/Omega/OmegaM.lean (hunk 3 above)
Comment (bollu) [reply Std/Tactic/Omega/OmegaM.lean:136]: I've changed the normalization, but this is probably superceded by the other suggestion.
